US08242125B2
To a mixture of 4-methyl-3-oxopentanenitrile (11 g, 99 mmol) and water (200 mL) is added NaOH (4.95 g, 124 mmol). Once the NaOH pellets are completely dissolved, hydroxylamine sulfate (8.93 g, 109 mmol) is added and after 5 min the pH is measured (pH 7-8). The reaction is warmed to 40° C. and stirred for 72 h. At this point HCl (13.0 mL, 158 mmol, 37%) is added in one portion and the reaction warmed to 50° C. for 2.5 h. The reaction is removed from the oil bath and allowed to cool to rt. At this point a solution of NaOH (30% in H2O) is added to give a solution of pH 11. EtOAc is then added and the layers separated. The water layer is extracted with EtOAc (3×) until no more product appears in the LCMS of the water layer. The combined organics are dried (Na2SO4) and evaporated to give 5-isopropyl-isoxazol-3-ylamine. MS (ESI) m/z 127.2 (M+1).

reactant | 4-methyl-3-oxopentanenitrile | 99 mmol, 11 g | CC(C(CC#N)=O)C | C6H9NO
reactant | NaOH | 124 mmol, 4.95 g | [OH-].[Na+]
reactant | hydroxylamine sulfate | 109 mmol, 8.93 g | S(=O)(=O)(O)O.NO
reactant | HCl | 158 mmol, 13.0 mL | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 200 mL | O | H2O
product | 5-isopropyl-isoxazol-3-ylamine | C(C)(C)C1=CC(=NO1)N | C6H10N2O
